US08980326B2
HO-Leu-NH2 (10.0 g, 76.2 mmol) was suspended in 150 mL of anhydrous THF and heated to 50° C. Phosgene (20% in toluene) (76.0 mL, 152.4 mmol) was added to the amino acid suspension. The amino acid dissolved over the course of approx. 1 hr, forming a clear solution. The solution was concentrated on the rotovap, transferred to a beaker, and hexane was added to precipitate the product. The white solid was isolated by filtration and dissolved in toluene. The solution was filtered over a bed of Celite to remove any insoluble material. An excess of hexane was added to the filtrate to precipitate the product. The NCA was isolated by filtration and dried in vacuo. 9.0 g (75% yield) of Leu NCA was isolated as a white, crystalline solid. 1H NMR (d6-DMSO) δ 9.13 (1H), 4.44 (1H), 1.74 (1H), 1.55 (2H), 0.90 (6H) ppm.

reactant | HO-Leu-NH2 | 76.2 mmol, 10.0 g | ON[C@@H](CC(C)C)C(=O)N | C6H14N2O2
reactant | Phosgene | 152.4 mmol, 76.0 mL | C(=O)(Cl)Cl | CCl2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Leu | 9.0 g, 75% yield | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
